Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ female with history of hypertension, 
hyperlipidemia, MS, RA and IBS presenting with vomiting, 
diarrhea and lightheadedness. Patient was in her usual state of 
health until noon today when after she had lunch at a 
restaurant, she suddenly had diarrhea and vomiting. Diarrhea was 
non-bloody. She also had several episodes of non-bloody emesis. 
She had repeated episodes of diarrhea and emesis, where she 
started feeling lightheaded. She was subsequently brought to the 
ED. Last episode of emesis was before she was brought to ED. 
Diarrhea continued after arrival to ED. Of note, pt has a past 
hx of colitis.  
 In the ED, initial vitals: 97.5 80 81/47 18 100RA. BP improved 
to 136/65 before transfer.  
 - Exam notable for: unremarkable  
 - Labs notable for: Cr 1.2, otherwise tropX2, CBC/lytes, UA 
unremarkable.  
 - Imaging notable for: CT abd/pelvis: colitis of sigmoid and 
left descending colon  
 - Patient given: 1L NS and cipro/flagyl.  
 On arrival to the floor, pt reports, no nausea vomiting, but 
endorses diarrhea, now one episode mixed with blood. No fever, 
chills. No dizziness, lightheadedness.  

Overnight, she was noted to have a few bowel movements that 
included some small amounts of blood mixed with mucuous. She has 
been having bowel movements every few hours. Nausea has 
improved. She is able to tolerate water, and breakfast is 
pending.

In her words, she states that she and her husband came into 
___ to have brunch at a local restaurant. She does admit 
that her stomach has been "off" for the previous few days. About 
an hour after eating latkes and ___ toast (which her husband 
also ate), she had the acute onset of rectal urgency and 
vomiting. When the symptoms did not abate, she came to the ED. 
About three hours into this episode, her diarrhea began to 
include some bright red blood mixed with stool. She denies 
fevers, chills, sick contacts, recent travel, or unusual foods. 
She does car for her grandchildren occasionally who are in grade 
school. She does not have any pets.

She adds that she had a previously episode of colitis in ___ 
and also in ___, which was worked up with a flexible 
sigmoidoscopy, she thinks. She was in the hospital for a few 
days and also treated with antibiotics at that time (we do not 
have these records). She has a sister with ___ Disease. Last 
colonoscopy was in ___, per patient, with just a few polyps. 
She also had an EGD in ___ which was unremarkable, she says.
 
Past Medical History:
 MS  
 IBS  
 Chronic Pain Syndrome  
 RA  
 Migraines  
 Anxiety  
 
Social History:
___
Family History:
Migraines, sister with ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
 Vitals: afebrile 110/70 86 18 96RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.  

DISCHARGE PHYSICAL EXAM
=======================
Vitals: Tm 100.3, Tc 99.5, BP 123-124/66-76, HR 84-94, RR 16, 
92-93% RA.
General: Alert, oriented, no acute distress; thin woman lying 
comfortably in bed, conversant and pleasant
HEENT: Sclera anicteric, MMM, oropharynx clear
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, no tenderness to light palpation, but tenderness 
to deep palpation of LLQ. No guarding or significantly 
distension; present bowel sounds
Ext: Warm, well perfused, no cyanosis or edema. No erythematous, 
hot or swollen joints. 
Skin: Without rashes; a few small ecchymoses from HSQ injections
Neuro: A&Ox3. Grossly intact.  
 
Pertinent Results:
ADMISSION LABS
===============
___ 02:05PM BLOOD WBC-7.6 RBC-3.67* Hgb-11.7 Hct-37.1 
MCV-101* MCH-31.9 MCHC-31.5* RDW-14.9 RDWSD-54.4* Plt ___
___ 02:05PM BLOOD Neuts-74.4* Lymphs-16.2* Monos-6.1 
Eos-2.0 Baso-0.9 Im ___ AbsNeut-5.64 AbsLymp-1.23 
AbsMono-0.46 AbsEos-0.15 AbsBaso-0.07
___ 02:05PM BLOOD ___ PTT-25.1 ___
___ 02:05PM BLOOD Glucose-141* UreaN-15 Creat-1.2* Na-ANION 
GAP  K-4.1 Cl-98 HCO3-28 AnGap-PND
___ 02:05PM BLOOD cTropnT-<0.01
___ 12:30AM BLOOD cTropnT-<0.01
___ 02:17PM BLOOD Lactate-2.2*
___ 08:13PM BLOOD Lactate-1.00
___ 08:00PM URINE Color-Straw Appear-Clear Sp ___
___ 08:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 08:00PM URINE RBC-<1 WBC-4 Bacteri-NONE Yeast-NONE 
Epi-1 TransE-<1

PERTINENT LABS
==============
___ 06:30AM BLOOD VitB12-757
___ 06:30AM BLOOD TSH-0.59

DISCHARGE LABS
===============
___ 07:00AM BLOOD WBC-5.5 RBC-3.17* Hgb-9.8* Hct-31.5* 
MCV-99* MCH-30.9 MCHC-31.1* RDW-14.9 RDWSD-53.5* Plt ___
___ 07:00AM BLOOD Glucose-97 UreaN-9 Creat-0.8 Na-141 K-4.0 
Cl-102 HCO3-27 AnGap-16
___ 07:00AM BLOOD Calcium-8.7 Phos-3.8 Mg-2.3

MICROBIOLOGY
==============
___ BCx - pending, NGTD
C. difficile - negative
Stool culture
___ 1:03 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

___ 8:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP B.    10,000-100,000 CFU/mL. 
      GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

IMAGING
========
CXR ___
IMPRESSION:  
No acute intrathoracic abnormality.

CT abd/pelvis ___
IMPRESSION: 
Colitis involving the descending colon and sigmoid colon for 
which differential is broad and includes infectious, 
inflammatory, and ischemic etiologies.  Note is made that the 
superior mesenteric and inferior mesenteric arteries appear to 
opacify without an appreciable filling defect.  Diverticula are 
present in the sigmoid colon although involvement of the 
entirety of the left hemicolon argues against diverticulitis. No 
pelvic fluid collection.
 

 
Brief Hospital Course:
___ female with history of hypertension, hyperlipidemia, 
MS, RA and IBS presenting with vomiting, diarrhea and 
lightheadedness and found to have colitis on imaging.  

# Left sided colitis: Pt presented with sudden diarrhea, 
vomiting and  LLQ abdominal pain found to have sigmoid and L 
descending colitis on CT scan. Differential included infectious 
(bacterial, viral) vs. inflammatory vs. ischemic Infectious is 
most likely given acute onset, would suspect viral (norovirus, 
for example) vs bacterial (campylobacter, shigella, salmonella 
especially since blood mixed in, less likely C. diff) as most 
likely agents, especially since she has not felt right in a few 
days. She was placed on cipro and flagy given that she is on 
immunosuppressive agents. Blood noted in stool after arrival on 
floor felt to be be ___ repeated episodes of diarrhea in the 
setting of colitis vs invasive organisms. Most likely viral vs 
bacterial colitis. C. diff culture and stool cultures negative. 
She was continued on cipro/flagyl for total 7 days.

# ___: Patient presented with Cr 1.2, likely pre-renal in the 
setting of multiple episodes of diarrhea/vomiting. Now s/p 1L NS 
with resolution of normal renal function. Likely pre-renal in 
the setting of multiple episodes of diarrhea/vomiting. 

# Macrocytic anemia: Patient with Hgb 11.7 on presentation then 
decreased to 10 which is stable on repeat. Suspect dilutional 
cause of anemia, and would imagine that she is at risk for ACD 
given her PMHx. Also with macrocytosis, so checked Vitamin B12 
and TSH, which were normal. Suspect ACD & macrocytosis from MTX.

# MS: continued glatiramer.
# RA: continued leflunomide, leucovorin, methotrexate.
# chronic pain syndrome: continued Lexapro, gabapentin, 
lamictal.
# anxiety: continued Ativan PRN.
# migraines: continued prednisone PRN (outpatient regimen).

TRANSITIONAL ISSUES:
=====================
- ciprofloxacin and flagyl x 7 days (last dose = ___
- f/u stool/campylobacter pending at discharge
- Final read of CT scan mentions filling defects in the 
mesenteric arteries (see results section). Could consider 
further evaluation for possible mesenteric ischemia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methylprednisolone 12 mg PO DAILY:PRN RA flare 
2. PredniSONE 20 mg PO DAILY:PRN RA flare 
3. Lisinopril 10 mg PO DAILY 
4. Gabapentin 1200 mg PO TID 
5. LamoTRIgine 50 mg PO BID 
6. Leucovorin Calcium 5 mg PO 1X/WEEK (MO) 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Oxybutynin 5 mg PO BID 
9. LORazepam 0.5-1 mg PO TID:PRN anxiety 
10. leflunomide 20 mg oral DAILY 
11. Simvastatin 20 mg PO QPM 
12. Multivitamins 1 TAB PO DAILY 
13. Calcium Carbonate 500 mg PO BID 
14. Aspirin 81 mg PO DAILY 
15. Escitalopram Oxalate 10 mg PO DAILY 
16. Vitamin B Complex 1 CAP PO DAILY 
17. Ascorbic Acid ___ mg PO BID 
18. Modafinil 100 mg PO BID 
19. glatiramer 40 mg/mL subcutaneous 3X/WEEK 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*8 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth daily Disp #*12 
Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every eight hours 
Disp #*3 Tablet Refills:*0 
4.  Ascorbic Acid ___ mg PO BID  
5.  Aspirin 81 mg PO DAILY  
6.  Calcium Carbonate 500 mg PO BID  
7.  Escitalopram Oxalate 10 mg PO DAILY  
8.  Fish Oil (Omega 3) 1000 mg PO DAILY  
9.  Gabapentin 1200 mg PO TID  
10.  glatiramer 40 mg/mL subcutaneous 3X/WEEK  
11.  LamoTRIgine 50 mg PO BID  
12.  leflunomide 20 mg oral DAILY  
13.  Leucovorin Calcium 5 mg PO 1X/WEEK (MO)  
14.  Lisinopril 10 mg PO DAILY  
15.  LORazepam 0.5-1 mg PO TID:PRN anxiety  
16.  Methylprednisolone 12 mg PO DAILY:PRN RA flare  
17.  Modafinil 100 mg PO BID  
18.  Multivitamins 1 TAB PO DAILY  
19.  Oxybutynin 5 mg PO BID  
20.  PredniSONE 20 mg PO DAILY:PRN RA flare  
21.  Simvastatin 20 mg PO QPM  
22.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: infectious colitis
SECONDARY: acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you during your hospitalization 
at ___. You were admitted with nausea, vomiting and diarrhea 
and found to have colitis. We did some testing and thought it 
was likely due to an infection. We started you on two 
antibiotics, ciprofloxacin and flagyl, and also gave you IV 
fluids since you were dehydrated. please take the full course of 
antibiotics and follow-up with your doctor as written below.

We wish you the best!

- Your ___ Team
 
Followup Instructions:
___